US09034900B2
Step 1: 2-methyl-6-(4-methylpyrazol-1-yl)isoquinolin-1-one
6-Bromo-2-methylisoquinolin-1-one (300.0 mg, 1.27 mmol), 4-methyl-1H-pyrazole (210.0 mg, 2.54 mmol), CuI (30.0 mg, 0.127 mmol) and K2CO3 (360.0 mg, 2.54 mmol) in NMP (3.0 mL) were microwaved at 195° C. for 5 h. Extractive work up with ethyl acetate followed by silica gel chromatography (PE:EA=5:1) gave the title compound of step 1 (160.0 mg, 52%) as a light yellow solid. 1H NMR (CDCl3, 400 MHz) δ 8.49 (d, J=8.8 Hz, 1H), 7.84 (s, 1H), 7.83 (d, J=2.0 Hz, 1H), 7.74 (dd, J1=8.8 Hz, J2=2.0 Hz, 1H), 7.59 (s, 1H), 7.10 (d, J=7.6 Hz, 1H), 6.52 (d, J=7.6 Hz, 1H), 3.62 (s, 3H), 2.19 (s, 3H). LCMS: 240.0 (M+H)+.

reactant | 6-Bromo-2-methylisoquinolin-1-one | 1.27 mmol, 300.0 mg | BrC=1C=C2C=CN(C(C2=CC1)=O)C | C10H8BrNO
reactant | 4-methyl-1H-pyrazole | 2.54 mmol, 210.0 mg | CC=1C=NNC1 | C4H6N2
reactant | K2CO3 | 2.54 mmol, 360.0 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | EA | CC(OCC)=O | C4H8O2
solvent | NMP | 3.0 mL | CN1CCCC1=O | C5H9NO
catalyst | CuI | 0.127 mmol, 30.0 mg | [Cu]I
product | 2-methyl-6-(4-methylpyrazol-1-yl)isoquinolin-1-one | 160.0 mg, 52% | CN1C(C2=CC=C(C=C2C=C1)N1N=CC(=C1)C)=O | C14H13N3O
